US04917826
N-(2'-(4"-Hydroxyphenyl)ethyl)-3-methoxyestra-1,3,5-(10)-triene-17β-amine
Tyramine (5.27 g), glacial acetic acid (5.27 g), estrone methyl ether (4.92 g) sodium cyanoborohydride (1.09 g), tetrahydrofuran (43 ml) were added to methanol (58 ml). The reacting mixture was allowed to stir for 21 hours at room temperature. TLC (ethyl acetate) revealed the information of a more polar product (Rf 0.25). After 19 hours TLC revealed that the starting material still remained in the reaction solution. The system was warmed at 40 C. in an oil bath. The solution remained as a white undissolved solid. After 29 hours the systsem was allowed to reach room temperature. Excess solvent was removed under reduced pressure. Water was added and made basic (pH 9) with aqueous 50% NaOH. The white solid did not dissolve in ether and was slightly soluble in ethyl acetate. The solid was filtered and mixed with 34 g of flash silica gel and ethyl acetate. The solvent was removed under reduced pressure. The silica gel was poured on top of the chromatographic column. The compound was eluted with ethyl acetate. Solid was obtained and was recrystallized from ethyl acetate, mp 184°-185° C. (diabetes)

reactant | Tyramine | 5.27 g | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | acetic acid | 5.27 g | C(C)(=O)O | C2H4O2
reactant | estrone methyl ether | 4.92 g | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CCC4=C3C=CC(=C4)OC | C19H24O2
reactant | tetrahydrofuran | 43 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 58 ml | CO | CH4O
product | N-(2'-(4"-Hydroxyphenyl)ethyl)-3-methoxyestra-1,3,5-(10)-triene-17β-amine | OC1=CC=C(C=C1)CCN[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC | C27H35NO2
